US04451471
4.0 g of 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-2-formylacetic acid ethyl ester are dissolved in 50 ml of acetic acid, 10 ml of 43% strength hydrobromic acid are added and the mixture is heated at 80° for 4 hours. The mixture is concentrated to dryness by evaporation under reduced pressure, and the residue is dissolved in 200 ml of ethyl acetate, washed twice with 50 ml of saturated sodium bicarbonate solution each time and with water, dried over magnesium sulphate and concentrated to dryness by evaporation. The crude product is recrystallised from hexane/diethyl ether (55 ml+10 ml). 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-acetaldehyde having a melting point of 75°-76° is obtained.

reactant | 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-2-formylacetic acid ethyl ester | 4.0 g | C(C)OC(C(C=O)SC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C22H21NO5S2
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-[4,5-bis-(p-methoxyphenyl)-thiazol-2-ylthio]-acetaldehyde | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)SCC=O | C19H17NO3S2
